US08710043B2
To a 100 mL round bottom flask containing methyl 1-oxoisoindoline-5-carboxylate (200 mg, 1.046 mmol) was added THF (6 mL) and H2O (2 mL) the mixture was stirred at 23° C. for 2 min. At this time, lithium hydroxide monohydrate (87 μL, 3.14 mmol) was added and the flask was gently heated on aluminum block for 5 min. The solid went into solution and LC/MS showed product formation. The contents of the reaction were poured into HCl (1 M, 15 mL) and extracted with DCM (15 mL). An emulsion formed, the layers separated, and a white solid formed at the boundary of the layers and stuck to the separatory funnel. This material was collected, dissolved in MeOH, and concentrated. After drying under high vacuum for 2 h, the 1-oxoisoindoline-5-carboxylic acid thus obtained was taken on directly to the next reaction without further purification.

reactant | methyl 1-oxoisoindoline-5-carboxylate | 1.046 mmol, 200 mg | O=C1NCC2=CC(=CC=C12)C(=O)OC | C10H9NO3
reactant | THF | 6 mL | C1CCOC1 | C4H8O
reactant | lithium hydroxide monohydrate | 3.14 mmol, 87 μL | O.[OH-].[Li+]
reactant | HCl | 1 M, 15 mL | Cl | ClH
solvent | H2O | 2 mL | O | H2O
product | 1-oxoisoindoline-5-carboxylic acid | O=C1NCC2=CC(=CC=C12)C(=O)O | C9H7NO3
